* C:\Users\jeron\OneDrive\Documents\GitHub\RTTY\SPICE\AnalogTo.asc
XU1 0 N002 +5 -5 N003 LF356
V1 N002 0 SINE(0 1 2000)
V2 +5 0 5
V3 -5 0 -5
R1 N003 P001 10k
D1 0 P001 D
XU2 0 N004 +5 -5 N001 LF356
R2 N004 N003 10k
R3 N004 N005 10k
R4 N001 N004 5k
V4 N005 0 -3.5
.model D D
.lib C:\Users\jeron\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0.005
.lib LF356.sub
.backanno
.end
