* C:\Users\jeron\OneDrive\Documents\GitHub\RTTY\SPICE\Draft16.asc
Vin N001 0 DC 1
R2 0 N002 47k
D1 N002 0 1N4001
R1 N002 N001 56k
R3 N002 0 68k
.model D D
.lib C:\Users\jeron\AppData\Local\LTspice\lib\cmp\standard.dio
* Ryan Jeronimus, ECE 2214, Lab1
.dc dec Vin 0 5 100
.TEMP 26.85
.backanno
.end
